US09290490B2
A solution of N-(3-bromo-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine (41 mg, 0.123 mmol), Cataxium A (8.9 mg, 0.025 mmol), tris(dibenzylideneacetone)dipalladium(0) (5.7 mg, 0.0062 mmol), pivalic acid (0.006 mL, 0.049 mmol) and methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-1-methylcyclohexanecarboxylate (peak 3) (51.2 mg, 0.370 mmol) in dimethylacetamide (0.55 mL) was heated at 125° C. for 24 hours. The reaction mixture was then allowed to cool to room temperature and diluted with diethyl ether (10 mL), ethyl acetate (20 mL) and saturated aqueous sodium bicarbonate solution (10 mL). The layers were separated and the organic layer was washed with water (3×10 mL) and brine (10 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (20-50% ethyl acetate/hexanes) to provide methyl 4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}-1-methylcyclohexanecarboxylate. MS ESI calc'd. for C26H30F3N4O3S [M+H]+ 535. found 535. 1H NMR (500 MHz, CDCl3) δ 8.66 (d, J=4.9 Hz, 1H), 7.91 (s, 1H), 7.87 (s, 1H), 7.34 (s, 1H), 7.27 (s, 1H), 7.10 (s, 1H), 7.06 (d, J=4.9 Hz, 1H), 3.76 (s, 3H), 3.06 (s, 1H), 2.40 (s, 3H), 1.83-1.66 (m, 6H), 1.65 (s, 3H), 1.50-1.42 (m, 2H), 1.39-1.33 (m, 1H), 1.17 (s, 3H).

reactant | N-(3-bromo-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine | 0.123 mmol, 41 mg | BrC=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C12H9BrF3N3
reactant | pivalic acid | 0.049 mmol, 0.006 mL | C(C(C)(C)C)(=O)O | C5H10O2
reactant | methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]-1-methylcyclohexanecarboxylate | 0.370 mmol, 51.2 mg | OC(C)(C=1SC=CN1)C1CCC(CC1)(C(=O)OC)C | C14H21NO3S
solvent | dimethylacetamide | 0.55 mL | CC(=O)N(C)C | C4H9NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0062 mmol, 5.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}-1-methylcyclohexanecarboxylate | OC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C1CCC(CC1)(C(=O)OC)C | C26H29F3N4O3S
